US07732440B2
2-(10-Methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionic Acid
2.0 g of ethyl 2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionate are suspended in 100 ml of methanol, and 32.1 ml of a 2M NaOH solution are added. The reaction mixture is stirred at 80° C. for one hour. The methanol is removed under reduced pressure and the reaction mixture is adjusted to pH 4 by addition of concentrated hydrochloric acid. The mixture is extracted three times with in each case 100 ml of ethyl acetate. The combined organic phases are dried over MgSO4 and then concentrated under reduced pressure. This gives 1.85 g of 2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionic acid as a solid.

reactant | ethyl 2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionate | 2.0 g | CN1C2=CC=CC=C2S(C=2C=CC(=CC12)C(C(=O)OCC)CC1CCOCC1)(=O)=O | C23H27NO5S
reactant | NaOH | 2M | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-(10-Methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionic Acid | CN1C2=CC=CC=C2S(C=2C=CC(=CC12)C(C(=O)O)CC1CCOCC1)(=O)=O | C21H23NO5S
